US08604029B2
2,4,6-Trimethylpyridine (2.24 mL, 16.9 mmol) and sodium acetate (0.92 g, 11.3 mmol) were added to a solution of trans-4-nitrocinnamaldehyde (1.0 g, 5.64 mmol) in acetic anhydride (20 mL). The reaction mixture was refluxed for 8 h, then brought to room temperature and quenched with 5% sodium bicarbonate solution (40 mL). The compound was extracted with ethyl acetate and the organic layer was washed with water, brine solution, dried over anhydrous sodium sulfate, filtered and concentrated. The crude compound was purified by column chromatography over silica gel (60-120 mesh) using 30% ethyl acetate in hexane as eluent to afford 2,4-dimethyl-6-[4-(4-nitro-phenyl)-buta-1,3-dienyl]-pyridine (800 mg, 51%) as a yellow solid.

reactant | 2,4,6-Trimethylpyridine | 16.9 mmol, 2.24 mL | CC1=NC(=CC(=C1)C)C | C8H11N
reactant | sodium acetate | 11.3 mmol, 0.92 g | C(C)(=O)[O-].[Na+]
reactant | trans-4-nitrocinnamaldehyde | 5.64 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(/C=C/C=O)C=C1 | C9H7NO3
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-dimethyl-6-[4-(4-nitro-phenyl)-buta-1,3-dienyl]-pyridine | 800 mg, 51% | CC1=NC(=CC(=C1)C)C=CC=CC1=CC=C(C=C1)[N+](=O)[O-] | C17H16N2O2
